US08193221B2
Preparation of 4-[5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-N-hydroxy-2-methyl-benzamidine (Compound No. A1 of Table A)
Hydroxylamine hydrochloride (0.27 g) was added to a solution of 4-[5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-2-methyl-benzonitrile (1.1 g) (Example I4) and triethylamine (0.65 ml) in ethanol (30 ml). The reaction mixture was heated to 85° C. for 20 hours. The reaction mixture was allowed to cool to ambient temperature before adding more hydroxylamine hydrochloride (0.078 g). The reaction mixture was again heated to 85° C. for 3 hours. The reaction mixture was allowed to cool to ambient temperature, diluted with ethyl acetate, washed with water, dried over sodium sulfate, and concentrated. The residue was purified by column chromatography on silica gel (eluent: cyclohexane/ethyl acetate 2:1) to give Compound No. A1 of Table A (0.84 g) as a white solid.

reactant | Hydroxylamine hydrochloride | 0.27 g | Cl.NO
reactant | 4-[5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-2-methyl-benzonitrile | 1.1 g | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC(=C(C#N)C=C1)C)C(F)(F)F | C18H11Cl2F3N2O
reactant | triethylamine | 0.65 ml | C(C)N(CC)CC | C6H15N
reactant | hydroxylamine hydrochloride | 0.078 g | Cl.NO
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-N-hydroxy-2-methyl-benzamidine | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC(=C(C(=N)NO)C=C1)C)C(F)(F)F | C18H14Cl2F3N3O2
